US07138414B2
c) 1-{2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-4-fluorophenyl}piperidine-4-carboxylic acid sodium salt
The solution of 100 mg of 1-{2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-4-fluoro-phenyl}piperidine-4-carboxylic acid in 8 ml of isopropanol at 60° C. is admixed with the equimolar amount of 2N sodium hydroxide solution and, after the addition of 20 ml of water, cooled slowly with stirring. The precipitated product is filtered off with suction, washed with isopropanol and water and dried under reduced pressure.

reactant | 1-{2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-4-fluoro-phenyl}piperidine-4-carboxylic acid | 100 mg | ClC1=C(C(=O)NC(NC2=C(C=CC(=C2)F)N2CCC(CC2)C(=O)O)=O)C=C(C(=C1)F)F | C20H17ClF3N3O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | isopropanol | 8 ml | C(C)(C)O | C3H8O
product | 1-{2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-4-fluorophenyl}piperidine-4-carboxylic acid sodium salt | [Na+].ClC1=C(C(=O)NC(NC2=C(C=CC(=C2)F)N2CCC(CC2)C(=O)[O-])=O)C=C(C(=C1)F)F | InChI=1S/C20H17ClF3N3O4.Na/c21-13-9-15(24)14(23)8-12(13)18(28)26-20(31)25-16-7-11(22)1-2-17(16)27-5-3-10(4-6-27)19(29)30;/h1-2,7-10H,3-6H2,(H,29,30)(H2,25,26,28,31);/q;+1/p-1
